US05856334
Preparation of 4,5-dihydro-2-(2-phenylethyl)-6H-imidazo[4,5,1-ij]quinolin-6-one
Fifteen grams of 8-amino-2,3-dihydro-4(1H) -quinolinone was dissolved in methanol (300 mL), and after addition of 3-phenylpropionaldehyde (14.6 mL) and 1N HCl (3 mL), the mixture was stirred at room temperature for 2 hrs, followed by addition of silica gel (60 g) to the reaction mixture, and the solvent was removed under reduced pressure. The residue was heated at 100° C. for 2 hrs and purified by silica gel column chromatography (eluent: hexane/ethyl acetate) to yield the titled compound as yellow crystals (13.2 g).

reactant | 8-amino-2,3-dihydro-4(1H) -quinolinone | Fifteen grams | NC=1C=CC=C2C(CCNC12)=O | C9H10N2O
reactant | 3-phenylpropionaldehyde | 14.6 mL | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | HCl | 1N, 3 mL | Cl | ClH
solvent | methanol | 300 mL | CO | CH4O
product | 4,5-dihydro-2-(2-phenylethyl)-6H-imidazo[4,5,1-ij]quinolin-6-one | 13.2 g | C1(=CC=CC=C1)CCC1=NC=2C=CC=C3C(CCN1C23)=O | C18H16N2O
